US07572801B2
2,5-Difluoronicotinic acid (547 mg, 3.44 mmol), TBTU (1.33 g, 4.14 mmol) and DIPEA (3.40 ml, 19.85 mmol) were added to a solution of carbamimidoylmethyl-carbamic acid benzyl ester [77390-81-9] (725 mg, 3.51 mmol) in DMF (20 ml). The solution was stirred for 5 hours at ambient temperature and 30 hours at 90° C. The brown suspension was poured onto ice cold aqueous buffer solution pH5/dichloromethane 1/1. The layers were separated, the aqueous layer was extracted twice with dichloromethane, the combined extracts were washed with brine and dried over magnesium sulfate. Removal of the solvent under reduced pressure and crystallization (EtOAc/TBME) yielded (6-fluoro-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-carbamic acid benzyl ester (250 mg, 0.757 mmol; 22%) as white solid. MS: m/e=327.1 [M−H−].

reactant | 2,5-Difluoronicotinic acid | 3.44 mmol, 547 mg | FC1=C(C(=O)O)C=C(C=N1)F | C6H3F2NO2
reactant | TBTU | 4.14 mmol, 1.33 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 19.85 mmol, 3.40 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | carbamimidoylmethyl-carbamic acid benzyl ester | 3.51 mmol, 725 mg | C(C1=CC=CC=C1)OC(NCC(N)=N)=O | C10H13N3O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (6-fluoro-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-carbamic acid benzyl ester | 0.757 mmol, 250 mg, 22% | C(C1=CC=CC=C1)OC(NCC=1NC(C2=C(N1)N=CC(=C2)F)=O)=O | C16H13FN4O3
